US05478359
2nd step: Synthesis of 2-methylthio-5-aminophenol.
The suspension obtained on mixing 150 ml of 96° strength ethanol, 16 ml of water, 2.3 g of ammonium chloride and 78 g of finely powdered zinc is brought to reflux. 25.1 g (0.15 mol) of 2-methylthio-5-nitrophenol are added portionwise so as to maintain the reflux without heating (exothermic reaction).

reactant | ethanol | C(C)O | C2H6O
reactant | ammonium chloride | 2.3 g | [Cl-].[NH4+]
reactant | 2-methylthio-5-nitrophenol | 0.15 mol, 25.1 g | CSC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO3S
catalyst | zinc | [Zn] | Zn
solvent | water | 16 ml | O | H2O
product | 2-methylthio-5-aminophenol | CSC1=C(C=C(C=C1)N)O | C7H9NOS
